US07303739B2
Step B: Reaction of Doxorubicin with Cyclic Phosphochloridate
A mixture of doxorubicin hydrochloride (58.5 mg, 0.10 mmol), phosphorylating agent (26.7 mg, 0.12 mmol) and diisopropylethylamine (45.5 μL, 0.26 mmol) in 3.0 mL of DMF was stirred for 19 h at room temperature. Treated with additional diisopropylethylamine (60 μL, 0.34 mmol) and phosphorylating agent (31.8 mg, 0.14 mmol) and stirred for an additional 31 h. The solvent was removed under reduced pressure and the residue was chromatographed on a short silica column eluting with 5% methanol in dichloromethane. The product obtained was treated with CH3OH/CH2Cl2 and precipitated with ether. The red solid was filtered, rinsed with ether and dried under vacuum at room temperature.

reactant | doxorubicin hydrochloride | 0.10 mmol, 58.5 mg | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O.Cl
reactant | diisopropylethylamine | 0.26 mmol, 45.5 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 0.34 mmol, 60 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | CH3OH CH2Cl2 | CO.C(Cl)Cl
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | Doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
